US06734180B1
3-methyl-4-(2-indanylamino)isoxazolo[5,4-d]pyrimidine
4-cyano-5-ethoxymethyleneamino-3-aminoisoxazole (320 mg, 1.8 mmol) (see J. Org. Chem., 29, 2116 (1964)) and 2-aminoindan (710 mg, 5.3 mmol) in dry ethanol (3 ml) were heated to reflux for 1.5 hours. The residue obtained by distilling off the solvent under reduced pressure was purified by silica gel chromatography (hexane:ethyl acetate=2:1). The product obtained was crystallized from ethanol to obtain the title compound (270 mg, 0.38 mmol) having the following physical properties:

reactant | 4-cyano-5-ethoxymethyleneamino-3-aminoisoxazole | 1.8 mmol, 320 mg | C(#N)C=1C(=NOC1N=COCC)N | C7H8N4O2
reactant | 2-aminoindan | 5.3 mmol, 710 mg | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | ethanol | 3 ml | C(C)O | C2H6O
product | 3-methyl-4-(2-indanylamino)isoxazolo[5,4-d]pyrimidine | 0.38 mmol, 270 mg | CC1=NOC2=NC=NC(=C21)NC2CC1=CC=CC=C1C2 | C15H14N4O
